US05409943
(a) N-(3-(4-Methoxybenzyloxy)pyrid-2-yl)-N'-(4-chlorophenyl)thiourea
A mixture of 2-amino-3-(4-methoxybenzyloxy)pyridine (1.80 g, 0.0078 mol), 4chlorophenyl isothiocyanate (1.58 g, 0.0094 mol) and toluene (10 ml) was refluxed for 3.5 hours, then cooled and treated with diethyl ether to induce crystallisation of the product. Yield 2.2 g (70.5%), m.p. 136°-138 ° C.

reactant | 2-amino-3-(4-methoxybenzyloxy)pyridine | 0.0078 mol, 1.80 g | NC1=NC=CC=C1OCC1=CC=C(C=C1)OC | C13H14N2O2
reactant | 4chlorophenyl isothiocyanate | 0.0094 mol, 1.58 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(3-(4-Methoxybenzyloxy)pyrid-2-yl)-N'-(4-chlorophenyl)thiourea | COC1=CC=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C=C1 | C20H18ClN3O2S
